17
R0102 1 2 2
R0304 3 4 2
R0500 5 0 -1.4
R0607 6 7 2
R0809 8 9 2
R1000 10 0 -1.4
R1105 11 5 1.9
R1210 12 10 1.9
L1200 12 0 1
C0513 5 13 0.31
C1114 11 14 1
C1500 15 0 1
C1016 10 16 0.31
C1217 12 17 1
G0011 0 11 15 0 1
G1500 15 0 11 0 1
D0002 0 2 1e-9 43.429445e-3
D0007 0 7 1e-9 43.429445e-3
D0503 5 3 1e-9 43.429445e-3
D1008 10 8 1e-9 43.429445e-3
V0400 4 0 DC 2
V1300 13 0 PULSE 0 0.1 0 0 0 10000 20000 1
V1400 14 0 PULSE 0 0.1 0 0 0 10000 20000 1
V0900 9 0 DC 2
V1600 16 0 PULSE 0 0.1 0 0 0 10000 20000 1
V1700 17 0 PULSE 0 0.1 0 0 0 10000 20000 1
V0105 1 5 DC 2
V0610 6 10 DC 2
.TRAN 1000 100E-3 TETA 0.55 1
