4
L2 1 0 2.2883295194508E-1
L1 2 3 6.25E-2
C2 1 0 1E-2
C1 3 4 3.66132723112128E-2
K0200 2 0 1 0 1E+1
V0400 4 0 SIN 0 1 3.34225450026611 0 0 0 1000
.TRAN 5.98398095238095 5.98398095238095E-3 TETA 0.5 10
