7
R0102 1 2 1000
R0300 3 0 100
R0405 4 5 1
L0406 4 6 5000E-6
C0700 7 0 100E-9
C0300 3 0 10E-6
K0406 4 6 7 0 -0.1
Q0601 6 1 0 NPN 0.995 0.5 3.77513E-14 0.025 3.77513E-14 0.025 1000000
D0703 7 3 1E-9 43.429445E-3
V0200 2 0 PULSE 0 10 0 1E-6 1E-6 100E-6 200E-6 200
V0500 5 0 DC 180
.TRAN 10E-4 10E-8 TETA 0.5 1
