11
R0102 1 2 1000
R0304 3 4 1E+3
R0503 5 3 1E+3
R0607 6 7 1E+3
R0806 8 6 1E+3
C0500 5 0 1E-8
C0800 8 0 1E-8
C0903 9 3 1E-6
C0106 1 6 1E-6
Q1005 10 5 9 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E9
Q1108 11 8 1 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E9
I0900 9 0 DC 10E-3
V0002 0 2 DC 10
V0400 4 0 PULSE 0 1 0 0 0 6.28E-3 1.256E-2 2
V0700 7 0 PULSE 0 1 0 0 0 6.28E-3 1.256E-2 2
V1000 10 0 DC 10
V1100 11 0 DC 10
.TRAN 1.256E-2 1.256E-5 TETA 0.5 1
