12
Q0102 1 2 0 NPN 0.99 0.5 3.77513E-14 0.025 3.77513E-14 0.025 1E9
Q0304 3 4 0 PNP 0.99 0.5 3.77513E-14 0.025 3.77513E-14 0.025 1E9
H0500 5 0 6 2 1
H0007 0 7 4 8 1
H0900 9 0 10 1 1
H0011 0 11 3 12 1
I0006 0 6 PULSE 0 1E-5 1 0 0 5 6 1
I0006 0 6 PULSE 0 1E-5 2 0 0 4 6 1
I0006 0 6 PULSE 0 1E-5 3 0 0 3 6 1
I0006 0 6 PULSE 0 1E-5 4 0 0 2 6 1
I0006 0 6 PULSE 0 1E-5 5 0 0 1 6 1
I0800 8 0 PULSE 0 1E-5 1 0 0 5 6 1
I0800 8 0 PULSE 0 1E-5 2 0 0 4 6 1
I0800 8 0 PULSE 0 1E-5 3 0 0 3 6 1
I0800 8 0 PULSE 0 1E-5 4 0 0 2 6 1
I0800 8 0 PULSE 0 1E-5 5 0 0 1 6 1
V1000 10 0 PULSE 0 1 0 0.5 0.5 0 1 6
V0012 0 12 PULSE 0 1 0 0.5 0.5 0 1 6
.TRAN 10 10E-4 TETA 1 1
